US06335459B1
A solution of tert-butyl bromoacetate (0.60 mL, 4.03 mmol) and potassium carbonate (1.12 g, 8.06 mmol) was added to a solution of trans-3-(3-hydroxypropenyl)phenol (0.58 g, 3.84 mmol) in acetone (15 mL) at room temperature under a nitrogen atmosphere and stirred for about 20 hours. The mixture was filtered, and the filtrate was concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave pure trans-[3-(3-hydroxypropenyl)phenoxy]acetic acid tert-butyl ester as a clear oil (0.987 g, 97%).

reactant | tert-butyl bromoacetate | 4.03 mmol, 0.60 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 8.06 mmol, 1.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-3-(3-hydroxypropenyl)phenol | 3.84 mmol, 0.58 g | OC/C=C/C=1C=C(C=CC1)O | C9H10O2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | trans-[3-(3-hydroxypropenyl)phenoxy]acetic acid tert-butyl ester | 0.987 g, 97% | C(C)(C)(C)OC(COC1=CC(=CC=C1)\C=C\CO)=O | C15H20O4
